US08580785B2
Preparation of 7-chloro-6-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-3H-benzoimidazole-5-carboxylic acid isopropylamide (T21.1.8)
See step f) of example H2 with 4-chloro-6-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-1H-7-oxa-1,3,5-triaza-cyclopenta[b]naphthalen-8-one as starting material and 2 equivalents of isopropylamine. After overnight stirring at ambient temperature, 2 equivalents of amine were added and the reaction is stopped after 5 hours. After purification by flash chromatography on silica gel, a white solid is obtained in 50% yield. m.p.: 200-203° C.; LC/MS: 526/528 (M+1)+.

reactant | 4-chloro-6-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-1H-7-oxa-1,3,5-triaza-cyclopenta[b]naphthalen-8-one | ClC1=C2C(=CC=3C(OC(=NC13)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)=O)NC=N2 | C18H7Cl2F3N6O2
reactant | isopropylamine | 2 equivalents | C(C)(C)N | C3H9N
product | 7-chloro-6-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-3H-benzoimidazole-5-carboxylic acid isopropylamide | 50% yield | C(C)(C)NC(=O)C1=CC2=C(N=CN2)C(=C1NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)Cl | C21H16Cl2F3N7O2
